US09416135B2
To a stirring solution of (R)-benzyl 2-isopropyl-3-oxo-3,4-dihydropyrazine-1(2H)-carboxylate (400 g, 1.46 mol) in DCE (2 L) was added Et3SiH (424 g, 3.65 mol) and TFA (665 g, 5.8 mol) at rt. The reaction was stirred under reflux for 36 h. After cooled to rt, the solution was concentrated to remove the solvent. The residue was diluted with EtOAc (2 L), and it was added slowly into a stirring cooled sat. aq. NaHCO3 (2 L) to make sure that the pH>8. The mixture was extracted with EtOAc (2×2.5 L). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filter and concentrated to give (R)-benzyl 2-isopropyl-3-oxopiperazine-1-carboxylate (402 g, yield 99.75%), which was used for next step without further purification. LC-MS m/z 276.9 [M+H]+. 1H NMR (DMSO-d6 400 MHz): δ 7.93 (s, 1H), 7.39-7.31 (m, 5H), 5.09 (s, 2H), 4.06-4.01 (m, 1H), 3.99-3.92 (m, 1H), 3.23-3.14 (m, 3H), 2.20-2.12 (m, 1H), 0.96-0.94 (m, 3H), 0.85 (d, J=6.0 Hz, 3H).

reactant | (R)-benzyl 2-isopropyl-3-oxo-3,4-dihydropyrazine-1(2H)-carboxylate | 1.46 mol, 400 g | C(C)(C)[C@H]1N(C=CNC1=O)C(=O)OCC1=CC=CC=C1 | C15H18N2O3
reactant | Et3SiH | 3.65 mol, 424 g | [SiH](CC)(CC)CC | C6H16Si
reactant | TFA | 5.8 mol, 665 g | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCE | 2 L | ClCCCl | C2H4Cl2
product | (R)-benzyl 2-isopropyl-3-oxopiperazine-1-carboxylate | 402 g, yield 99.75% | C(C)(C)[C@H]1N(CCNC1=O)C(=O)OCC1=CC=CC=C1 | C15H20N2O3
